US06313340B1
Preparation of p-Carbomethoxycinnamic Acid.
To a 3-L three-necked round-bottom flask equipped with an overhead stirrer, condenser, and a nitrogen/thermocouple unit was added methyl p-formylbenzoate (82.08 g, 0.50 mole), malonic acid (104.06 g, 1.00 mole), and pyridine (200 mL). Stirring was started followed by heating to 50° C. for 75 minutes. By this time, a sizable amount of solids had formed and to this mixture was added piperidine (7.5 mL, 0.076 mole) and the temperature raised to 80° C. After another one hour at 80° C., the temperature was raised to 115° C. After another 2.5 hours at this temperature, heating was stopped and the mixture allowed to cool before pouring into water (2 L). To the aqueous mixture was carefully added concentrated HCI (250-300 mL) until the mixture became acidic. The mixture was filtered, and the solids washed with fresh water (1 L) before being suction dried. A yield of 96.83 g (93.9 percent) of white solids was obtained. Proton nmr (DMSO-d6) delta: 7.95 (2H, d); 7.80 (2H, d); 7.60 (1H, d); 6.62 (1H, d); 3.82 (3H, s).

reactant | methyl p-formylbenzoate | 0.50 mole, 82.08 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | malonic acid | 1.00 mole, 104.06 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
reactant | piperidine | 0.076 mole, 7.5 mL | N1CCCCC1 | C5H11N
solvent | water | 2 L | O | H2O
product | p-Carbomethoxycinnamic Acid | yield of 96.83 g, 93.9 percent | C(=O)(OC)C1=CC=C(C=CC(=O)O)C=C1 | C11H10O4
